US06906053B2
3-(2,5-dioxo-4-imidazolidinyl)-N-{4-[(2-methyl-4-quinolinyl)methoxy]phenyl}propanamide
(+/−)-5-hydantoinpropionic acid (Dakin; Am. Chem. J. 1910, 44, 49) (50 mg, 0.29 mmol) was coupled with 4-[(2-methyl-4-quinolinyl)methoxy]-aniline bis-HCl salt (213 mg, 0.63 mmol) using general coupling method A to give 58 mg (44%) of the product hydantoin. MS found: (M+H)+=419.

reactant | (+/−)-5-hydantoinpropionic acid | 0.29 mmol, 50 mg | N1C(=O)NC(=O)C1CCC(=O)O | C6H8N2O4
reactant | 4-[(2-methyl-4-quinolinyl)methoxy]-aniline bis-HCl salt | 0.63 mmol, 213 mg | Cl.Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(N)C=C1
reactant | hydantoin | N1C(=O)NC(=O)C1 | C3H4N2O2
product | 3-(2,5-dioxo-4-imidazolidinyl)-N-{4-[(2-methyl-4-quinolinyl)methoxy]phenyl}propanamide | 58 mg, 44% | O=C1NC(C(N1)CCC(=O)NC1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)=O | C23H22N4O4
